US06140351
To a solution of N-(4-chlorophenyl)-2-[((5-formyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide (0.31 g, 0.69 mmol) in CCl4 (10 mL) and benzene (15 mL) was added N-bromosuccinimide (NBS) (0.18 g, 1.03 mmol) and 2,2'-azobisisobutyronitrile (AIBN) (0.011 g, 0.068 mmol). The reaction mixture was heated to reflux for 1 hour, and the resulting clear yellow solution was cooled to 0° C. Methanol (0.1 mL) was added and the reaction mixture was stirred for 14 hours at ambient temperature. Water was added and the reaction mixture was extracted with methylene chloride. The combined extracts were dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash chromatography on silica to afford 0.27 g of N-(4-chlorophenyl)-2-[((5-methoxycarbonyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide. as a pale yellow solid; NMR (DMSO-d6 /TFA) 11.3 (s,1), 10.8 (s, 1), 8.3 (d, 1), 7.9 (s, 1), 7.7 (m, 3), 7.6 (d, 1), 7.4 (d, 2), 3.8 (s, 3) ppm.

reactant | N-(4-chlorophenyl)-2-[((5-formyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.69 mmol, 0.31 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)C=O)=O | C19H11Cl3N2O3S
reactant | N-bromosuccinimide | 1.03 mmol, 0.18 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobisisobutyronitrile | 0.068 mmol, 0.011 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | Methanol | 0.1 mL | CO | CH4O
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
solvent | Water | O | H2O
product | N-(4-chlorophenyl)-2-[((5-methoxycarbonyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.27 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)C(=O)OC)=O | C20H13Cl3N2O4S
